US07943609B2
A solution of (2R,3R)-3-(benzyloxy)-2-(tritylamino)butan-1-ol (4.33 g, 9.91 mmol) dissolved in 150 mL of CH2Cl2 was treated with triethylamine (1.52 mL, 10.9 mmol), tert-butyldimethylsilyl chloride (1.65 g, 10.9 mmol) and DMAP (122 mg, 1.00 mmol) and the reaction mixture was stirred under N2 overnight. The reaction mixture was then concentrated and the resulting material was dissolved in 50 mL of CH2Cl2 and washed successively with H2O and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 5-10% ethyl acetate/hexanes) gave 3.26 g of (2R,3R)-3-(benzyloxy)-1-{[tert-butyl(dimethyl)silyl]oxy-}-N-tritylbutan-2-amine as a white solid.

reactant | (2R,3R)-3-(benzyloxy)-2-(tritylamino)butan-1-ol | 9.91 mmol, 4.33 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C30H31NO2
reactant | triethylamine | 10.9 mmol, 1.52 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 10.9 mmol, 1.65 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.00 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2R,3R)-3-(benzyloxy)-1-{[tert-butyl(dimethyl)silyl]oxy-}-N-tritylbutan-2-amine | 3.26 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO[Si](C)(C)C(C)(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C36H45NO2Si
